US04242507
In 1 N aqueous sodium hydroxide (49 ml) is dissolved 1-hydroxy-1,2,3-benzotriazole (6.6 g) (pH 6.8). To the solution is added dropwise benzenesulfonyl chloride (8.8 g) with stirring under ice-cooling and the mixture is stirred for 1 hour. The reaction mixture is extracted with ethyl acetate and the extract is washed with water and dried over anhydrous magnesium sulfate. After drying, the solvent is distilled off. The crystalline residue is cracked well in n-hexane and separated by filtration and dried to give 1-benzenesulfonyloxy-1,2,3-benzotriazole (11.5 g), melting point: 83°-84° C.

reactant | 1-hydroxy-1,2,3-benzotriazole | 6.6 g, pH 6.8 | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzenesulfonyl chloride | 8.8 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | sodium hydroxide | 1 N, 49 ml | [OH-].[Na+]
product | 1-benzenesulfonyloxy-1,2,3-benzotriazole | 11.5 g | C1(=CC=CC=C1)S(=O)(=O)ON1N=NC2=C1C=CC=C2 | C12H9N3O3S
